US04797129
Preparation of 4-chloro-2-amino-6-methylaminonitrobenzene
0.034 mole (7.5 g) of 2,4-dichloro-6-methylaminonitrobenzene is added in an autoclave to 100 ml of a 28% strength solution of ammonia in water and 50 ml of ethanol. The reaction mixture is heated to 145°-150° C. for 12 hours, the pressure being 12 kg/cm2After cooling, the expected product precipitates from the reaction mixture. After being filtered off and reslurried in water, it is dried hot under vacuum in the presence of phosphorus pentoxide. Recrystallized from isopropanol, it melts at 129° C.

reactant | 2,4-dichloro-6-methylaminonitrobenzene | 0.034 mole, 7.5 g | ClC1=C(C(=CC(=C1)Cl)NC)[N+](=O)[O-] | C7H6Cl2N2O2
reactant | ammonia | N | H3N
solvent | water | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-chloro-2-amino-6-methylaminonitrobenzene | ClC1=CC(=C(C(=C1)NC)[N+](=O)[O-])N | C7H8ClN3O2
